US04189433
5.0 g of 7-nitro-4-hydroxy-1,2-benzisothiazole, in a mixture of 50 ml of acetic anhydride, 10 ml of acetic acid and 50 mg of a 5% strength palladium-on-charcoal catalyst, are left for 10 hours at 60° C. under 100 bars hydrogen pressure. After the mixture has cooled, the catalyst is filtered off, the filtrate is concentrated under reduced pressure and the partially crystalline crude product is recrystallized from acetic anhydride. 4.2 g (67% of theory) of 7-acetamino-4-acetoxy-1,2-benzisothiazole of melting point 215°-216° C. are obtained.

reactant | 7-nitro-4-hydroxy-1,2-benzisothiazole | 5.0 g | [N+](=O)([O-])C1=CC=C(C=2C=NSC21)O | C7H4N2O3S
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
reactant | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 7-acetamino-4-acetoxy-1,2-benzisothiazole | 4.2 g, 67% | N(C(=O)C)C1=CC=C(C=2C=NSC21)OC(C)=O | C11H10N2O3S
